* Prob 1: Supermesh
* EXPECTED TRUTH:
* i1 (i(v_sense_i1)) = 2.000000
* i2 (i(v_sense_i2)) = 6.000000
* i3 (i(v_sense_i3)) = 2.000000
* vx (v(2))  = 92.0000
* vy (v(3))  = 44.0000

V1 1 0 DC 100
R1 1 1_sense 4
V_sense_i1 1_sense 2 DC 0

I_source 0 2 DC 4

R2 2 2_sense 8
V_sense_i2 2_sense 3 DC 0

F_dep 3 0 V_sense_i1 2

R3 3 3_sense 2
V_sense_i3 3_sense 4 DC 0

V2 4 0 DC 40

.op
.print op v(2) v(3) i(v_sense_i1) i(v_sense_i2) i(v_sense_i3)
.end
